US09193731B2
(3-{tert-Butoxycarbonyl-[4-(7-oxo-1,7-dihydro-imidazo[1,2-a]pyrimidin-6-yl)-benzyl]-amino}-propyl)-carbamic acid tert-butyl ester:
To a mixture of 2-(4-{[tert-Butoxycarbonyl-(3-tert-butoxycarbonylamino-propyl)-amino]-methyl}-phenyl)-3-methoxy-acrylic acid methyl ester (97 mg, 0.2 mmol), 1H-imidazol-2-ylamine sulfate (29 mg, 0.223 mmol) and ethanol (10 mL) was added a solution of sodium methoxide (0.5 mL, 0.5 M in methanol, 0.25 mmol). The resulted mixture was refluxed for 18 h, additional 0.5 mL of sodium methoxide (0.5 M in methanol, 0.5 mmol) was added and continued to reflex for 20 h. The reaction was concentrated and diluted with EtOAc (30 mL) and washed with water (20 mL), brine (20 mL). The EtOAc solution was concentrated. The crude product was purified by flash chromatography (10% methanol in dichloromethane) to give desired product (48 mg, 48%) as white solid. 1NMR (300 MHz, CD3OD): δ 8.40 (s, 1H), 7.59 (br.s, 2H), 7.29 (m, 4H), 4.46 (s, 2H), 3.23 (m, 2H), 3.02 (m, 2H), 1.68 (m, 2H), 1.52 (br.d, 9H), 1. 42 (s, 9H). LCMS (EI) m/z: 498.1 (M+H+).

reactant | 2-(4-{[tert-Butoxycarbonyl-(3-tert-butoxycarbonylamino-propyl)-amino]-methyl}-phenyl)-3-methoxy-acrylic acid methyl ester | 0.2 mmol, 97 mg | COC(C(=COC)C1=CC=C(C=C1)CN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C25H38N2O7
reactant | 1H-imidazol-2-ylamine sulfate | 0.223 mmol, 29 mg | S(=O)(=O)(O)O.N1C(=NC=C1)N
reactant | sodium methoxide | 0.25 mmol, 0.5 M, 0.5 mL | C[O-].[Na+]
reactant | sodium methoxide | 0.5 mmol, 0.5 M, 0.5 mL | C[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (3-{tert-Butoxycarbonyl-[4-(7-oxo-1,7-dihydro-imidazo[1,2-a]pyrimidin-6-yl)-benzyl]-amino}-propyl)-carbamic acid tert-butyl ester | 48 mg, 48% | C(C)(C)(C)OC(NCCCN(CC1=CC=C(C=C1)C=1C(N=C2N(C1)C=CN2)=O)C(=O)OC(C)(C)C)=O | C26H35N5O5
